US08710043B2
Step 3. 1-(Difluoromethyl)-6-oxo-1,6-dihydropyridine-3-carboxylic Acid
To a solution of methyl 1-(difluoromethyl)-6-oxo-1,6-dihydropyridine-3-carboxylate (0.500 g, 2.461 mmol) in MeOH (12 mL) and water (4 mL) was added lithium hydroxide hydrate (0.207 g, 4.92 mmol, Aldrich). The resulting mixture was then stirred at room temperature for 4 h. Solvent (MeOH) was removed in vacuok, and the remaining aqueous solution was adjusted to pH=5-6 by addition of concentrated HCl. The mixture was then extracted with EtOAc (3×10 mL). The combined organic layers were dried (MgSO4), and the solvent removed to give the title compound as a yellow solid. MS (ESI, positive ion) m/z: 190 (M+H).

reactant | methyl 1-(difluoromethyl)-6-oxo-1,6-dihydropyridine-3-carboxylate | 2.461 mmol, 0.500 g | FC(N1C=C(C=CC1=O)C(=O)OC)F | C8H7F2NO3
reactant | lithium hydroxide hydrate | 4.92 mmol, 0.207 g | O.[OH-].[Li+]
solvent | MeOH | 12 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
product | 1-(Difluoromethyl)-6-oxo-1,6-dihydropyridine-3-carboxylic Acid | FC(N1C=C(C=CC1=O)C(=O)O)F | C7H5F2NO3
